US08008303B2
2′-Methyl-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid
2′-Methyl-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid ethyl ester (0.89 g) in THF (10 ml) and 0.5M NaOH (15 m) was heated to 100° C. for 3 hours then cooled to room temperature. THF was evaporated and the residue extracted with dichloromethane. The aqueous layer was acidified to pH 1 and a grey solid precipitated which was collected by filtration and dried (0.74 g).

reactant | 2′-Methyl-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid ethyl ester | 0.89 g | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C(NC1=CC=C(C=C1)N1CCOCC1)=O)C | C27H28N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | NaOH | 0.5M | [OH-].[Na+]
product | 2′-Methyl-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid | CC1=C(C=C(C=C1)C(NC1=CC=C(C=C1)N1CCOCC1)=O)C1=CC=C(C=C1)C(=O)O | C25H24N2O4
